US05306719
46 Grams of 6-(4,4-ethylenedioxy-1-piperidylcarbonyl)3,4-dihydrocarbostyril was dispersed in 400 ml of dioxane and 150 ml of water, then 15 ml of concentrated hydrochloric acid was added thereto and the whole mixture was heated at 100° C. for 7 hours with stirring. After the reaction mixture was allowed to stand for cooling, then was made alkaline by adding sodium carbonate, and the solvent was removed by evaporation. The residue thus obtained was extracted with chloroform, and the extract was dried with anhydrous sodium carbonate, and the solvent was removed by evaporation. The residue thus obtained was purlfied by means of a silica gel column chromatography (eluent:dichloromethane:methanol=10:1) to yield 37.6 g of 6-(4-oxo-1-piperidylcarbonyl)-3,4-dihydrocarbostyril.

reactant | 6-(4,4-ethylenedioxy-1-piperidylcarbonyl)3,4-dihydrocarbostyril | C1OC2(CCN(CC2)C(=O)C=2C=C3CCC(NC3=CC2)=O)OC1 | C17H20N2O4
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | methanol | CO | CH4O
product | 6-(4-oxo-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | 37.6 g | O=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H16N2O3
